US04052421
20 mg of p-toluenesulphonic acid are added to a solution of 327 mg of 13-ethinyl-3,3;17,17-bis-(ethylenedioxy)-10-methyl-gon-5-ene in 15 ml of acetone and 0.5 ml of water and the mixture is heated under reflux for 5 hours. The reaction mixture is concentrated to about 5 ml, diluted with ethyl acetate, washed with water and saturated sodium chloride solution, dried and evaporated. Chromatography on silica gel using a mixture of hexane/ethyl acetate (3:1) as the eluant gives only 13-ethinyl-10-methyl-gon-4-ene-3,17-dione, which is recrystallised from ether/hexane; melting point 148°-150° C, [α]D25 = +63°.

reactant | p-toluenesulphonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 17,17-bis-(ethylenedioxy)-10-methyl-gon-5-ene | C1OC23CC[C@H]4[C@H]5[C@H](CC([C@]24OCCO3)OC1)[C@]1(CCCCC1=CC5)C | C22H32O4
reactant | acetone | 15 ml | CC(=O)C | C3H6O
solvent | water | 0.5 ml | O | H2O
product | 13-ethinyl-10-methyl-gon-4-ene-3,17-dione | C(#C)[C@]12C(CC[C@H]2[C@H]2[C@H](CC1)[C@]1(CCC(C=C1CC2)=O)C)=O | C20H24O2
